US08980893B2
5-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-1,3-dimethylindolizine-8-carboxylic acid (2,2,2-trifluoroethyl)-amide (compound No 1.018)
Using a procedure similar to that described in Example 1, except using 5-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-1,3-dimethylindolizine-8-carboxylic acid (90 mg) and 2,2,2-trifluoroethylamine (38 mg), the title compound was isolated as a solid (85 mg, 81%). Rf=0.35 (3:7 EA/heptane). MS (ES): M/Z [M+H]=552. 1H NMR (400 MHz, DMSO-d6): 2.18 (s, 3H), 2.19 (s, 3H), 4.11 (qd, J=9.7, 6.6 Hz, 2H), 4.48 (d, J=18.7 Hz, 1H), 4.56 (d, J=18.6 Hz, 1H), 6.57 (s, 1H), 6.62 (d, J=7.0 Hz, 1H), 7.04 (d, J=7.0 Hz, 1H), 7.67 (d, J=1.7 Hz, 2H), 7.84 (t, J=1.9 Hz, 1H), 9.21 (t, J=6.3 Hz, 1H). 19F NMR (376 MHz, DMSO-d6): −78.8 (s, 3F) and −70.6 (t, J=9.9 Hz, 3F)

reactant | 5-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-1,3-dimethylindolizine-8-carboxylic acid | 90 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C=1N2C(=CC(=C2C(=CC1)C(=O)O)C)C)C(F)(F)F | C21H15Cl2F3N2O3
reactant | 2,2,2-trifluoroethylamine | 38 mg | FC(CN)(F)F | C2H4F3N
product | 5-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-1,3-dimethylindolizine-8-carboxylic acid (2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1=CC=C(N2C(=CC(=C12)C)C)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)(F)F | C23H17Cl2F6N3O2
